US04003942
To a solution of 250 g (1.14 moles) isobutyl 2-cyano-5-norbornene-2-carboxylate (IBC/CPD adduct) in 1000 ml. 95% ethanol is added a solution of 112 g (1.71 moles) of potassium hydroxide (86%w) in 1000 ml. water. The solution is refluxed on a steam bath for one hour, diluted with 3500 ml. water, and extracted with 2 × 400 ml. benzene to remove any unreacted ester. The aqueous phase is acidified to pH 1 with 6 N HCl and the oily product extracted into 4 × 200 ml. chloroform. The combined extracts are backwashed with 3 × 200 ml. water (which removed the orange color), dried over anhydrous sodium sulfate, and solvent stripped to give 182.3 g (98% theory) of the crude adduct, a pale orange syrupy liquid. Crystallization from benzene/hexane gives three crops of purified 2-cyano-5-norbornene-2-carboxylic acid: (1) 89.7 g, mp 87.5°-92° C, (2) 34.2 g, mp 87.5°-96.5° C, and (3) 15.9 g, mp. 85°-90° C.

reactant | isobutyl 2-cyano-5-norbornene-2-carboxylate | 1.14 moles, 250 g | C(#N)C1(C2C=CC(C1)C2)C(=O)OCC(C)C | C13H17NO2
reactant | ethanol | C(C)O | C2H6O
reactant | potassium hydroxide | 1.71 moles, 112 g | [OH-].[K+]
solvent | water | O | H2O
product | 2-cyano-5-norbornene-2-carboxylic acid | C(#N)C1(C2C=CC(C1)C2)C(=O)O | C9H9NO2
